US07214798B2
3.4. 2-Amino-2-oxoethyl 2-{1-[3-(trifluoromethyl)phenyl]-4-piperidyl}ethylcarbamate
9.3 ml (64.82 mmol) of a solution of aqueous ammonia (7N) in methanol are added to a solution of 0.77 g (2.16 mmol) of 3-(2-{1-[3-(trifluoromethyl)-phenyl]-4-piperidyl}ethyl)-1,3-oxazolidine-2,4-dione, obtained in step 3.3, in 10 ml of a 1/1 mixture of methanol and tetrahydrofuran. Stirring is continued at room temperature for 24 hours.

reactant | ammonia | 7N | N | H3N
reactant | 3-(2-{1-[3-(trifluoromethyl)-phenyl]-4-piperidyl}ethyl)-1,3-oxazolidine-2,4-dione | 2.16 mmol, 0.77 g | FC(C=1C=C(C=CC1)N1CCC(CC1)CCN1C(OCC1=O)=O)(F)F | C17H19F3N2O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-Amino-2-oxoethyl 2-{1-[3-(trifluoromethyl)phenyl]-4-piperidyl}ethylcarbamate | FC(C=1C=C(C=CC1)N1CCC(CC1)CCNC(OCC(=O)N)=O)(F)F | C17H22F3N3O3
